US04595675
(A) Nicotinic acid N-hydroxysuccinimide ester
The title compound is prepared in known a manner from 30.8 g of nicotinic acid, 34.5 g of N-hydroxysuccinimide and 55 g of dicyclohexyl carbodiimide in 800 ml of dimethyl formamide. When the reaction is terminated, the mixture is concentrated in vacuo to one third of its volume, cooled to 0° C., filtered and the filtrate is evaporated to dryness in vacuo. The residue is recrystallized from 200 ml of isopropanol. Yield 49.0 g, melting point 137° to 138° C.

reactant | nicotinic acid | 30.8 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | N-hydroxysuccinimide | 34.5 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexyl carbodiimide | 55 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethyl formamide | 800 ml | CN(C=O)C | C3H7NO
product | Nicotinic acid N-hydroxysuccinimide ester | C1CC(=O)N(C1=O)OC(=O)C2=CN=CC=C2 | C10H8N2O4
